US06716843B2
(S)-N-[4-Amino-5-oxo-5-(1-pyrrolidinyl)-pentyl]-cyclopentanesulphonamide Hydrochloride
Starting from (S)-N5-(benzyloxycarbonyl)-N2-(tert-butyloxycarbonyl)-ornithine, cyclopentanesulphonyl chloride and pyrrolidine, the expected product is obtained according to the procedure described in Example 3.

reactant | (S)-N5-(benzyloxycarbonyl)-N2-(tert-butyloxycarbonyl)-ornithine | C(C1=CC=CC=C1)OC(=O)NCCC[C@H](NC(=O)OC(C)(C)C)C(=O)O | C18H26N2O6
reactant | cyclopentanesulphonyl chloride | C1(CCCC1)S(=O)(=O)Cl | C5H9ClO2S
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | (S)-N-[4-Amino-5-oxo-5-(1-pyrrolidinyl)-pentyl]-cyclopentanesulphonamide Hydrochloride | Cl.N[C@@H](CCCNS(=O)(=O)C1CCCC1)C(N1CCCC1)=O | InChI=1S/C14H27N3O3S.ClH/c15-13(14(18)17-10-3-4-11-17)8-5-9-16-21(19,20)12-6-1-2-7-12;/h12-13,16H,1-11,15H2;1H/t13-;/m0./s1
